US06875884B1
To a solution of tert-butyl (2S)-2-[[(9H-9-fluorenylmethoxy)carbonyl]amino]-4-(1,2,3,4-tetrahydro-1-naphthylamino)butanoate (16 mg,0.030 mmol) in MeOH (0.5 ml) were added succinic semialdehyde (15 wt. % solution in water, 48 μl, 0.077 mmol), HOAc (2 μl, 0.035 mmol) and NaBH3CN (2.3 mg, 0.074 mmol), and the mixture was stirred at RT for 6 h. After adding water, the mixture was extracted with chloroform, washed with brine, dried over magnesium sulfate, and filtered. The filtrate was concentrated under vacuum to dryness, and the residue was adsorbed on a plate of silica gel and then developed with 10% methanol/chloroform to afford 4-[[(3S)-3-(tert-butoxycarbonyl)-3-[[(9H-9-fluorenylmethoxy)carbonyl]amino]propyl](1,2,3,4-tetrahydro-1-naphthyl)amino]butanoic acid (18 mg, 98%): MS(ES+) m/e 613 [M+H]+; 1H NMR (400 MHz, CDCl3) δ 7.98 (br, 1H), 7.76 (d, J=7.3 Hz, 2H), 7.61 (m, 3H), 7.40 (t, J=7.3 Hz, 2H), 7.31 (m, 2H), 7.15 (m, 2H), 7.06 (d, J7.6 =Hz, 1H), 5.64 (br, 1H), 4.36 (m, 2H), 4.22 (m, 3H), 2.75-2.17 (m, 8H), 2.10-1.65 (m, 8H), 1.42 (s, 9H).

reactant | tert-butyl (2S)-2-[[(9H-9-fluorenylmethoxy)carbonyl]amino]-4-(1,2,3,4-tetrahydro-1-naphthylamino)butanoate | 0.030 mmol, 16 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](C(=O)OC(C)(C)C)CCNC1CCCC2=CC=CC=C12 | C33H38N2O4
reactant | succinic semialdehyde | 0.077 mmol, 48 μl | C(CC(=O)O)C=O | C4H6O3
reactant | HOAc | 0.035 mmol, 2 μl | CC(=O)O | C2H4O2
reactant | NaBH3CN | 0.074 mmol, 2.3 mg | [BH3-]C#N.[Na+]
solvent | MeOH | 0.5 ml | CO | CH4O
solvent | water | O | H2O
product | 4-[[(3S)-3-(tert-butoxycarbonyl)-3-[[(9H-9-fluorenylmethoxy)carbonyl]amino]propyl](1,2,3,4-tetrahydro-1-naphthyl)amino]butanoic acid | 18 mg, 98% | C(C)(C)(C)OC(=O)[C@H](CCN(CCCC(=O)O)C1CCCC2=CC=CC=C12)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C37H44N2O6
